US07160888B2
Synthesis of 7-[4-(4-Naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one
A mixture of 3-aminomethyl-6-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-pyridin-2-ylamine (0.92 g, 2.27 mmol) in THF (25 mL) was treated with phenyl chloroformate (0.40 mL, 3.18 mmol) followed by Et3N (0.46 g, 4.54 mmol). The mixture was stirred at room temperature for 1 hour, then cooled to 0° C. and treated with LDA (5.6 mL, 11.20 mmol, 2.0 M in heptane/THF/ethylbenzene). The brown mixture was stirred at room temperature for 1 hour, then quenched with water and extracted with EtOAc. The organic extracts were washed with water, and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (2.5% Et3N/EtOAc) to afford the title compound as a light yellow solid (0.204 g, 21%). mp 136–138; 1H NMR (400 MHz, CDCl3): δ 8.24–8.16 (m, 1H), 7.85–7.78 (m, 1H), 7.55 (d, 1H), 7.50–7.42 (m, 2H), 7.40 (t, 1H), 7.25 (d, 1H), 7.09 (d, 1H), 6.84 (br s, 1H), 6.34 (d, 1H), 5.05 (br s, 1H), 4.48 (s, 2H), 4.45 (t, 2H), 3.30–2.05 (m, 4H), 2.93–2.60 (m, 4H), 2.55 (t, 2H), 1.90–1.70 (m, 4H). MS ES: m/z=432.11.

reactant | 3-aminomethyl-6-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-pyridin-2-ylamine | 2.27 mmol, 0.92 g | NCC=1C(=NC(=CC1)OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)N | C24H31N5O
reactant | phenyl chloroformate | 3.18 mmol, 0.40 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Et3N | 4.54 mmol, 0.46 g | CCN(CC)CC | C6H15N
reactant | LDA | 11.20 mmol, 2.0 M, 5.6 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 7-[4-(4-Naphthalen-1-yl-piperazin-1-yl)-butoxy]-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one | 0.204 g, 21% | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCOC=1C=CC2=C(NC(NC2)=O)N1 | C25H29N5O2
